US04032639
2,3,4,4a-Tetrahydro-3-methyl-1H-pyrazino[1,2-a]quinoxaline-5(6H)-one
A mixture of 3.5 g. (0.0135 mole) of 4-methyl-1-(o-nitrophenyl)piperazine-2-carboxylic acid, 2.5 g. (0.025 mole) of potassium bicarbonate, 110 ml. of water, 110 ml. of ethanol and 21/2 teaspoons of Raney nickel is hydrogenated in a Parr apparatus for 12 hours at an initial hydrogen pressure of 47 p.s.i. The catalyst is filtered and the filtrate is acidified with dilute hydrochloric acid. The mixture is then basified with sodium hydroxide and extracted with ethylacetate. The extract is dried and concentrated to give 2.3 g. of product. This is treated with 1 equivalent of hydrogen chloride in ethanol. After standing and cooling, filtration gives 2.4 g. of product, as the hydrochloride salt, m.p. 272°-275°. Recrystallization of the salt from ethanol-water gives 1.75 g., m.p. 284°-285° dec.

reactant | 4-methyl-1-(o-nitrophenyl)piperazine-2-carboxylic acid | 0.0135 mole | CN1CC(N(CC1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)O | C12H15N3O4
reactant | potassium bicarbonate | 0.025 mole | C([O-])(O)=O.[K+]
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | 1 equivalent | Cl | ClH
catalyst | Raney nickel | 2 teaspoons | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,3,4,4a-Tetrahydro-3-methyl-1H-pyrazino[1,2-a]quinoxaline-5(6H)-one | CN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C12H15N3O
